US04600709
In a manner analogous to that described in Example 4, 21.3 g (64 mmol) of 4-(2,5-dichlorophenylsulphonyl)-5-methyl-1,2-benzenediol, 10.0 g (64 mmol) of dichloroacetic acid ethyl ester and 44.2 g (320 mmol) of potassium carbonate in 160 ml of 1,2-dimethoxyethane are boiled under reflux. After 18 hours, the reaction mixture is filtered and the solid filtration residue is washed twice with 1,2-dimethoxyethane. 44 g of fresh potassium carbonate and 10 g of dichloroacetic acid ethyl ester are added to the combined organic solutions and the whole is stirred for 5 minutes using a high-speed stirrer and boiled, while stirring normally, for a further 17 hours. Working up is carried out in a manner analogous to that described in Example 10. After drying carefully, 5-(2,5-dichlorophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid is obtained in the form of white crystals having a melting point of 155°-157° (from diisopropyl ether).

reactant | 4-(2,5-dichlorophenylsulphonyl)-5-methyl-1,2-benzenediol | 64 mmol, 21.3 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C13H10Cl2O4S
reactant | dichloroacetic acid ethyl ester | 64 mmol, 10.0 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | potassium carbonate | 320 mmol, 44.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 160 ml | COCCOC | C4H10O2
product | 5-(2,5-dichlorophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)C1=CC2=C(OC(O2)C(=O)O)C=C1C | C15H10Cl2O6S
